US04190430
EXAMPLE 7: Di-(2-ethylthioethyl)2-chloroethanephosphonate
To a solution of 18.1 g (0.1 mol) of 2-chloroethane phosphonic acid dichloride in 150 ml of absolute ether is added dropwise with stirring a solution of 21.2 g (0.2 mol) of hydroxyethyl ethyl sulphide and 15.8 g of absolute pyridine in 100 ml of absolute ether at room temperature, during which the temperature increases to 35° and crystallisation occurs. Stirring is continued for a further 14 hours at 25° after which the crystals are removed by filtration and the ethereal filtrate is washed to neutrality with 5% hydrogen carbonate solution and water. It is dried and evaporated and further dried by rotation under high vacuum for 2 hours. A yellow oil is obtained having the following characterisation data:

reactant | 2-chloroethane phosphonic acid dichloride | 0.1 mol, 18.1 g | ClCCP(=O)(Cl)Cl | C2H4Cl3OP
reactant | hydroxyethyl ethyl sulphide | 0.2 mol, 21.2 g | C(C)SCCO | C4H10OS
reactant | pyridine | 15.8 g | N1=CC=CC=C1 | C5H5N
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | Di-(2-ethylthioethyl)2-chloroethanephosphonate | C(C)SCCOP(OCCSCC)(=O)CCCl | C10H22ClO3PS2
